*=========================================================
* OpenRAM SRAM Smoke Testbench
*=========================================================

.title OpenRAM SRAM Smoke Test

*---------------------------------------------------------
* SKY130 Models
*---------------------------------------------------------
.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

*---------------------------------------------------------
* OpenRAM SRAM
*---------------------------------------------------------
.include ../../../openram/results/sky130_sram_0kbytes_1rw_8x16_2.sp

*---------------------------------------------------------
* Power Supplies
*---------------------------------------------------------
VDD vccd1 0 1.8
VSS vssd1 0 0

*---------------------------------------------------------
* Clock
*---------------------------------------------------------
VCLK clk0 0 PULSE(0 1.8 0n 100p 100p 5n 10n)

*---------------------------------------------------------
* Control Signals (Inactive)
*---------------------------------------------------------
VCSB csb0 0 1.8
VWEB web0 0 1.8

*---------------------------------------------------------
* Address Lines
*---------------------------------------------------------
VA0 addr0[0] 0 0
VA1 addr0[1] 0 0
VA2 addr0[2] 0 0
VA3 addr0[3] 0 0
VA4 addr0[4] 0 0

*---------------------------------------------------------
* Data Inputs
*---------------------------------------------------------
VD0 din0[0] 0 0
VD1 din0[1] 0 0
VD2 din0[2] 0 0
VD3 din0[3] 0 0
VD4 din0[4] 0 0
VD5 din0[5] 0 0
VD6 din0[6] 0 0
VD7 din0[7] 0 0
VD8 din0[8] 0 0

*---------------------------------------------------------
* Write Mask
*---------------------------------------------------------
VWM0 wmask0[0] 0 1.8
VWM1 wmask0[1] 0 1.8
VWM2 wmask0[2] 0 1.8
VWM3 wmask0[3] 0 1.8

*---------------------------------------------------------
* Spare Write Enable
*---------------------------------------------------------
VSP spare_wen0 0 1.8

*---------------------------------------------------------
* Instantiate SRAM
*---------------------------------------------------------
XSRAM \
din0[0] din0[1] din0[2] din0[3] din0[4] din0[5] din0[6] din0[7] din0[8] \
addr0[0] addr0[1] addr0[2] addr0[3] addr0[4] \
csb0 web0 clk0 \
wmask0[0] wmask0[1] wmask0[2] wmask0[3] \
spare_wen0 \
dout0[0] dout0[1] dout0[2] dout0[3] dout0[4] \
dout0[5] dout0[6] dout0[7] dout0[8] \
vccd1 vssd1 \
sky130_sram_0kbytes_1rw_8x16_2

.control
tran 100p 100n
quit
.endc

.end
